US07262212B2
A mixture of 2-[3-(4-trifluoromethylphenyl)-2-propenyl]phthalimide (4.57 g, 13.79 mmol) prepared in Reference Example 102 and hydrazine hydrate (897 mg, 17.93 mmol) in ethanol (80 ml) was heated under reflux for 3 hours. The reaction mixture was allowed to return to room temperature and filtered, and the filtrate was concentrated under reduced pressure. To the residue, ethyl acetate was added, and the resulting mixture was washed with 1 N sodium hydroxide aqueous solution and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure to afford 3-(4-trifluoromethylphenyl)-2-propenylamine (2.78 g, quantitative) as a pale brown crystalline powder.

reactant | 2-[3-(4-trifluoromethylphenyl)-2-propenyl]phthalimide | 13.79 mmol, 4.57 g | FC(C1=CC=C(C=C1)C=CCC12C(C(=O)NC1=O)C=CC=C2)(F)F | C18H14F3NO2
reactant | hydrazine hydrate | 17.93 mmol, 897 mg | O.NN
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-(4-trifluoromethylphenyl)-2-propenylamine | 2.78 g | FC(C1=CC=C(C=C1)C=CCN)(F)F | C10H10F3N
